US05733913
6-(3-Methoxy-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
The title compound was prepared according to Example 1, starting from 3-methoxybenzyl cyanide and 2,4-diamino-5-pyrimidine-carboxaldehyde; mp 284°-286 ° C.

reactant | 3-methoxybenzyl cyanide | COC=1C=C(CC#N)C=CC1 | C9H9NO
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-(3-Methoxy-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | COC=1C=C(C=CC1)C1=CC2=C(N=C(N=C2)N)N=C1N | C14H13N5O
